US07893049B2
H-2a) 1-(4-bromophenyl)-1-cyclopropylcarboxylic acid
At 5° C. bromine (1.5 mL, 30 mmol) is added dropwise to a solution of 1-phenyl-1-cyclopropylcarboxylic acid (5 g, 30 mmol) and sodiumacetate (2.7 g, 33 mmol) in 30 mL glacial acetic acid. Then the mixture is heated to 50° C. and stirred for 2 days. The reaction mixture is diluted with 100 mL water, and the precipitate formed is filtered off and washed with 50% acetic acid. Yield: 5.7 g.

reactant | bromine | 30 mmol, 1.5 mL | BrBr | Br2
reactant | 1-phenyl-1-cyclopropylcarboxylic acid | 30 mmol, 5 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | sodiumacetate | 33 mmol, 2.7 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 1-(4-bromophenyl)-1-cyclopropylcarboxylic acid | BrC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9BrO2
